US07579474B2
4-(2,3-DICHLOROPHENYL)-1-ISOBUTYLPIPERIDIN-4-OL
Preparation according to Example 2: 4-(2,3-dichlorophenyl)piperidine (0.02 g, 0.081 mmol), acetonitrile (2 ml), potassium carbonate (0.02 g, 0.14 mmol), 1-bromo-2-methylpropane (0.009 ml, 0.082 mmol). MS m/z (relative intensity, 70 eV) 303 (M+, 1), 302 (M+, 2), 260 (63), 258 (bp), 242 (19), 240 (29).

reactant | 4-(2,3-dichlorophenyl)piperidine | 0.081 mmol, 0.02 g | ClC1=C(C=CC=C1Cl)C1CCNCC1 | C11H13Cl2N
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methylpropane | 0.082 mmol, 0.009 ml | BrCC(C)C | C4H9Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-(2,3-DICHLOROPHENYL)-1-ISOBUTYLPIPERIDIN-4-OL | ClC1=C(C=CC=C1Cl)C1(CCN(CC1)CC(C)C)O | C15H21Cl2NO
